US06777421B2
To an ice cold solution of 2-bromobenzyl bromide (5.00 g, 0.020 mol) in THF (25 mL) was added 1M allyl magnesium bromide (100 mL, 0.100 mol) slowly via cannula. The reaction mixture was stirred at reflux for 1.5 h, cooled in an ice bath and quenched with 50 mL of aqueous 2M H2SO4. Water (50 mL) was added to dissolve any remaining solid and the layers were separated. The aqueous layer was extracted with Et2O (2×150 mL). The combined organic extracts were dried over Na2SO4, filtered and concentrated to yield 1-bromo-2-but-3-enyl-benzene as a light yellow oil. The isolated crude product was carried forward without further purification.

reactant | 2-bromobenzyl bromide | 0.020 mol, 5.00 g | BrC1=C(CBr)C=CC=C1 | C7H6Br2
reactant | allyl magnesium bromide | 0.100 mol, 1M, 100 mL | C(C=C)[Mg]Br
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 1-bromo-2-but-3-enyl-benzene | BrC1=C(C=CC=C1)CCC=C | C10H11Br
